US07893058B2
Step 5. (5-Bromo-imidazo[1,2-a]pyrazin-8-yl)-[3-(tert-butyl-dimethyl-silanyloxymethyl)-4-morpholin-4-yl-phenyl]-carbamic acid tert-butyl ester
In the same way as described in the general procedure for Boc protection using (5-bromo-imidazo[1,2-a]pyrazin-8-yl)-[3 -(tert-butyl-dimethyl-silanyloxymethyl)-4-morpholin-4-yl-phenyl]-amine (0.216 g, 0.41 mmol), di-tert-butyl-dicarbonate (0.266 g, 1.21 mmol) and N,N-dimethylaminopyridine (4 mg, 0.04 mmol) in DCM (5 mL). The title compound (0.164 g, 54%) is isolated after purification by silica gel column chromatography eluting with 4:1 petroleum ether:ethyl acetate followed by 7:3 petroleum ether:ethyl acetate.

reactant | (5-bromo-imidazo[1,2-a]pyrazin-8-yl)-[3 -(tert-butyl-dimethyl-silanyloxymethyl)-4-morpholin-4-yl-phenyl]-amine | 0.41 mmol, 0.216 g | BrC1=CN=C(C=2N1C=CN2)NC2=CC(=C(C=C2)N2CCOCC2)C(O[SiH2]C(C)(C)C)(C)C | C23H32BrN5O2Si
reactant | di-tert-butyl-dicarbonate | 1.21 mmol, 0.266 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | DCM | 5 mL | C(Cl)Cl | CH2Cl2
product | (5-Bromo-imidazo[1,2-a]pyrazin-8-yl)-[3-(tert-butyl-dimethyl-silanyloxymethyl)-4-morpholin-4-yl-phenyl]-carbamic acid tert-butyl ester | 0.164 g, 54% | C(C)(C)(C)OC(N(C1=CC(=C(C=C1)N1CCOCC1)C(O[SiH2]C(C)(C)C)(C)C)C=1C=2N(C(=CN1)Br)C=CN2)=O | C28H40BrN5O4Si
